* Example of operating point analysis
V1 1 0 10
R1 2 1 2 
R2 2 0 2 
C3 2 3 200e-6 ; capacitors are considered as open circuits
R4 2 3 10
I5 3 2 2
L4 3 0 1e-3  ; capacitors are considered as short circuits
.op